US05684017
5,7-Dichloro-2-(2-aminobenzoyl)-4-[benzenesulfonylimino]-1,4-dihydroquinoline
Combine 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-4-[benzenesulfonylimino]-1,4-dihydroquinoline (1 mmol) and ethyl acetate (50 mL). Add trifluoroacetic acid (1 mL) and stir. After 24 hours, evaporate in vacuo and partition the residue between dichloromethane and a saturated aqueous sodium bicarbonate solution. Separate the organic layer, dry over MgSO4, filter and evaporate in vacuo. Chromatograph the residue on a column of silica gel to give the title compound.

reactant | 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-4-[benzenesulfonylimino]-1,4-dihydroquinoline | 1 mmol | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=NS(=O)(=O)C1=CC=CC=C1 | C27H23Cl2N3O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5,7-Dichloro-2-(2-aminobenzoyl)-4-[benzenesulfonylimino]-1,4-dihydroquinoline | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)N)=O)=NS(=O)(=O)C1=CC=CC=C1 | C22H15Cl2N3O3S
